US08470866B2
A mixture of (S)-3-cyclopentyl-N-[5-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl)-pyrazin-2-yl]-2-(1-oxo-4-trifluoromethyl-1,3-dihydro-isoindol-2-yl)-propionamide (74 mg, 0.14 mmol) in tetrahydrofuran (1.5 mL) was treated with a 1N aqueous hydrochloric acid solution (1.5 mL) and stirred at room temperature until there was no more starting material as indicated by TLC (overnight, ˜16 h). After this time, the reaction was treated with a saturated aqueous sodium bicarbonate solution and then extracted with ethyl acetate (3×20 mL). The organic layers were then combined and dried over magnesium sulfate, filtered to remove the drying agent and the filtrate concentrated in vacuo. The crude material was purified using an Analogix Intelliflash 280 chromatography system (4 g silica gel column, 100% ethyl acetate) to afford (S)-3-cyclopentyl-N-[5-((S)-1,2-dihydroxy-ethyl)-pyrazin-2-yl]-2-(1-oxo-4-trifluoromethyl-1,3-dihydro-isoindol-2-yl)-propionamide (49 mg, 72%) as a white foam: [α]28D=−41.6° (c=0.25, methylene chloride); HR-ES(+) m/e calcd for C23H25N4O4F3 [M+H]+ 479.1901, observed 479.1899; 1H NMR (300 MHz, DMSO-d6) δ 11.27 (s, 1H), 9.16 (s, 1H), 8.45 (d, J=0.91 Hz, 1H), 8.02 (t, J=8.45 Hz, 2H), 7.70-7.82 (m, 1H), 5.55 (br. s., 1H), 5.22 (dd, J=5.13, 10.26 Hz, 1H), 5.05 (d, J=18.11 Hz, 1H), 4.90-4.50 (br. s., 1H), 4.75 (d, J=18.11 Hz, 1H), 4.62 (t, J=5.13 Hz, 1H), 3.61-3.72 (m, 1H), 3.49-3.60 (m, 1H), 1.03-2.21 (m, 11H).

reactant | (S)-3-cyclopentyl-N-[5-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl)-pyrazin-2-yl]-2-(1-oxo-4-trifluoromethyl-1,3-dihydro-isoindol-2-yl)-propionamide | 0.14 mmol, 74 mg | C1(CCCC1)C[C@@H](C(=O)NC1=NC=C(N=C1)[C@@H]1OC(OC1)(C)C)N1C(C2=CC=CC(=C2C1)C(F)(F)F)=O | C26H29F3N4O4
reactant | hydrochloric acid | 1N, 1.5 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | (S)-3-cyclopentyl-N-[5-((S)-1,2-dihydroxy-ethyl)-pyrazin-2-yl]-2-(1-oxo-4-trifluoromethyl-1,3-dihydro-isoindol-2-yl)-propionamide | 49 mg, 72% | C1(CCCC1)C[C@@H](C(=O)NC1=NC=C(N=C1)[C@@H](CO)O)N1C(C2=CC=CC(=C2C1)C(F)(F)F)=O | C23H25F3N4O4
